US08283353B2
3′-fluoro-4′-{[4-(trans-4-{[1-(1-hydroxyethyl)cyclobutyl]methoxy}cyclohexyl)-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile
A mixture of 4′-{[4-(6,13-dioxadispiro[3.2.5.2]tetradec-10-yl)-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}-3′-fluorobiphenyl-2-carbonitrile (3.6 g), sodium cyanoborohydride (5.3 g), boron trifluoride-diethyl ether complex (3.1 mL) and tetrahydrofuran (150 mL) was stirred at 50° C. for 24 hr. The reaction mixture was diluted with ethyl acetate, washed with water and then with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure. The residue obtained by purification by silica gel column chromatography was dissolved in acetonitrile (30 mL), 1,1,1-triacetoxy-1,1-dihydro-1,2-benziodoxol-3(1H)-one (3.4 g) was added, and the mixture was stirred at room temperature for 4 hr. Saturated aqueous sodium hydrogen carbonate solution and sodium thiosulfate were added to the reaction mixture, and the mixture was stirred at room temperature for 2 hr, and extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure. The residue obtained by purification by silica gel column chromatography was dissolved in tetrahydrofuran (20 mL), and methylmagnesium bromide (1.0 M tetrahydrofuran solution, 4.5 mL) was added at room temperature. The reaction mixture was stirred for 2 hr, saturated aqueous ammonium chloride solution was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The obtained ethyl acetate layer was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography to give the title compound as a colorless solid (0.72 g, 19%).

reactant | 4′-{[4-(6,13-dioxadispiro[3.2.5.2]tetradec-10-yl)-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}-3′-fluorobiphenyl-2-carbonitrile | 3.6 g | C1CCC12COC1(CCC(CC1)N1C=3N(C(=C(C1=O)CC1=C(C=C(C=C1)C=1C(=CC=CC1)C#N)F)CCC)N=CN3)OC2 | C34H36FN5O3
reactant | sodium cyanoborohydride | 5.3 g | C(#N)[BH3-].[Na+]
reactant | 1,1,1-triacetoxy-1,1-dihydro-1,2-benziodoxol-3(1H)-one | 3.4 g | CC(=O)OI1(C2=CC=CC=C2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
reactant | methylmagnesium bromide | 1.0 M, 4.5 mL | C[Mg]Br
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 30 mL | C(C)#N | C2H3N
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
product | 3′-fluoro-4′-{[4-(trans-4-{[1-(1-hydroxyethyl)cyclobutyl]methoxy}cyclohexyl)-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile | 0.72 g, 19% | FC=1C=C(C=CC1CC=1C(N(C=2N(C1CCC)N=CN2)[C@@H]2CC[C@H](CC2)OCC2(CCC2)C(C)O)=O)C=2C(=CC=CC2)C#N | C35H40FN5O3
